US06048864
(d) 2-(2,2,2-Trifluoroethoxy)-4-methoxy-6- {1-[4-(morpholinecarbonyl)-1,4-diazepan-1-yl]ethylideneamino}benzonitrile
The subtitle compound was prepared from 3-amino-4-cyano-5-(2,2,2-trifluoroethoxy)-anisole and 1-acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane following a similar procedure to that described in Example 10(g) allowing the reaction to stir for 60 hours at room temperature. The crude product was purified on silica gel eluting with a solvent gradient of dichloromethane:methanol (100:0 to 95:5, v/v). The product was dissolved in a minimum volume of dichloromethane and an excess of ethereal hydrogen chloride added. The resulting precipitate was filtered off and partitioned between saturated aqueous sodium hydroxide solution (100 ml) and dichloromethane (200 ml). The organic layer was dried (MgSO4) and evaporated under reduced pressure to give the subtitle compound (1.83 g, 95%). Rf 0.58 (dichloromethane:methanol:0.880 aqueous ammonia 92:7:1, v/v). MS m/z 484 (MH)+.

reactant | 3-amino-4-cyano-5-(2,2,2-trifluoroethoxy)-anisole | NC=1C=C(C=C(C1C#N)OCC(F)(F)F)OC | C10H9F3N2O2
reactant | 1-acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane | C(C)(=O)N1CCN(CCC1)C(=O)N1CCOCC1 | C12H21N3O3
product | 2-(2,2,2-Trifluoroethoxy)-4-methoxy-6- {1-[4-(morpholinecarbonyl)-1,4-diazepan-1-yl]ethylideneamino}benzonitrile | 1.83 g, 95% | FC(COC1=C(C#N)C(=CC(=C1)OC)N=C(C)N1CCN(CCC1)C(=O)N1CCOCC1)(F)F | C22H28F3N5O4
